US05945434
1-n-Butylpiperazine
Anhydrous piperazine (19.5 g) was dissolved in ethanol (100 ml), and a solution of 1-bromobutane (24.8 g) in ethanol (50 ml) was added dropwise over a period of 20 minutes at room temperature. After stirring overnight, the reaction solution was filtered off with Celite, and the solvent was distilled off under reduced pressure. To the residue obtained was added a 40% aqueous solution of sodium hydroxide, and extracted with ether three times. The ether layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride:methanol:aqueous ammonia=90:10:0.5) to give the title compound (7.53 g) as a yellow oily substance. Yield=29%.

reactant | piperazine | 19.5 g | N1CCNCC1 | C4H10N2
reactant | 1-bromobutane | 24.8 g | BrCCCC | C4H9Br
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-n-Butylpiperazine | 7.53 g, Yield=29% | C(CCC)N1CCNCC1 | C8H18N2
